US08071779B2
(R)—N-(1-(4-(Methylthio)benzyl)pyrrolidin-3-yl)isoquinolin-5-amine, Compound 2.026
Reaction of (R)—N-(pyrrolidin-3-yl)isoquinolin-5-amine and 4-(methylthio)-benzaldehyde using the method of Example 8 afforded the title compound.

reactant | (R)—N-(pyrrolidin-3-yl)isoquinolin-5-amine | N1C[C@@H](CC1)NC=1C=2C=CN=CC2C=CC1 | C13H15N3
reactant | 4-(methylthio)-benzaldehyde | CSC1=CC=C(C=O)C=C1 | C8H8OS
product | (R)—N-(1-(4-(Methylthio)benzyl)pyrrolidin-3-yl)isoquinolin-5-amine | CSC1=CC=C(CN2C[C@@H](CC2)NC=2C=3C=CN=CC3C=CC2)C=C1 | C21H23N3S
